US08202885B2
To a suspension of 0.5 g of phosphorous pentoxide in 30 mL anh. DCM were added 1.3 mL of propiophenone followed by 2.9 mL of 2-cyclohexen-1-one at rt. The suspension was cooled to 0° C. with an ice bath before 2.6 mL of trifluoromethanesulfonic acid was carefully added. The reaction mixture was warmed to rt and then heated at 40° C. overnight. 5.4 mL of NEt3 were dropwise added at 0° C., the mixture was stirred at rt for 10 min and then evaporated to dryness. Purification by CC with EtOAc-Hept (2:8) yielded 1.2 g of rac-(1R*,4R*)-5-methyl-6-phenyl-bicyclo[2.2.2]oct-5-en-2-one as yellow oil.

reactant | phosphorous pentoxide | 0.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | propiophenone | 1.3 mL | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | 2-cyclohexen-1-one | 2.9 mL | C1(C=CCCC1)=O | C6H8O
reactant | trifluoromethanesulfonic acid | 2.6 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 5.4 mL | CCN(CC)CC | C6H15N
product | rac-(1R*,4R*)-5-methyl-6-phenyl-bicyclo[2.2.2]oct-5-en-2-one | 1.2 g | CC=1C2CC(C(C1C1=CC=CC=C1)CC2)=O | C15H16O
